US05300514
1-[(3,4-Dichlorobenzyl)aminocarbonyl]-4,5-diphenyl-3-pyrazolidinone [Method M]
A solution of 1-[(4-nitrophenyl)oxycarbonyl]-4,5-diphenyl-3-pyrazolidinone (1.00 g, 2.48 mmol) and 3,4-dichlorobenzylamine (5 mL) in 50 mL abs. EtOH was heated to reflux for 8 hours. Solvent was removed in vacuo, the residue taken up in CH2Cl2, washed twice with 1N HCl and once with pH 7 buffer, and dried over Na2SO4. After removal of solvent in vacuo, the product was purified by chromatography (0-35% EtOAc:hexane gradient) to give 250 mg (23%) solid:

reactant | 1-[(4-nitrophenyl)oxycarbonyl]-4,5-diphenyl-3-pyrazolidinone | 2.48 mmol, 1.00 g | [N+](=O)([O-])C1=CC=C(C=C1)OC(=O)N1NC(C(C1C1=CC=CC=C1)C1=CC=CC=C1)=O | C22H17N3O5
reactant | 3,4-dichlorobenzylamine | 5 mL | ClC=1C=C(CN)C=CC1Cl | C7H7Cl2N
solvent | EtOH | CCO | C2H6O
product | 1-[(3,4-Dichlorobenzyl)aminocarbonyl]-4,5-diphenyl-3-pyrazolidinone | 250 mg, 23% | ClC=1C=C(CNC(=O)N2NC(C(C2C2=CC=CC=C2)C2=CC=CC=C2)=O)C=CC1Cl | C23H19Cl2N3O2
